US05981533
3-(4-Acetylamino-phenylamino)-5-amino-4-cyano-pyrazole
A mixture of 7.46 g (27.4 mmol) of 3-(4-acetylamino-phenylamino)-2-cyano-3-methylmercapto-acrylonitrile, 1.63 ml (32.9 mmol) of hydrazine hydrate and 40 ml of methanol is heated under reflux for 5 hours and then concentrated by evaporation in vacuo. Recrystallization of the residue from methanol yields the title compound; m.p. 245-246° C. (decomp.).

reactant | 3-(4-acetylamino-phenylamino)-2-cyano-3-methylmercapto-acrylonitrile | 27.4 mmol, 7.46 g | C(C)(=O)NC1=CC=C(C=C1)NC(=C(C#N)C#N)SC | C13H12N4OS
reactant | hydrazine hydrate | 32.9 mmol, 1.63 ml | O.NN
solvent | methanol | 40 ml | CO | CH4O
product | 3-(4-Acetylamino-phenylamino)-5-amino-4-cyano-pyrazole | C(C)(=O)NC1=CC=C(C=C1)NC1=NNC(=C1C#N)N | C12H12N6O
